US06461580B1
III. Ion Exchange (synthesis of N-butyl-N-cyclooctylpyrrolidinium hydroxide)
N-butyl-N-cyclooctylpyrrolidinium iodide salt (95 gms., 0.26 mole) was dissolved in 300 ml. water in a 1000 ml. plastic bottle. To the solution, 300 gms. of Ion Exchange Resin OH (BIO RAD® AG1-X8) was added and the mixture was stirred at room temperature overnight. The mixture was filtered and the solids were rinsed with an additional 250 ml. of water. The original mixture was filtered and the rinse were combined and a small amount was titrated with 0.1N HCl to indicate the presence of 0.24 mol hydroxide (0.24 mol N-butyl-N-cyclooctylpyrrolidinium hydroxide) in the solution.

reactant | N-butyl-N-cyclooctylpyrrolidinium iodide salt | 0.26 mole, 95 gms | [I-].C(CCC)[N+]1(CCCC1)C1CCCCCCC1
reactant | hydroxide | 0.24 mol | [OH-]
solvent | water | O | H2O
product | N-butyl-N-cyclooctylpyrrolidinium hydroxide | [OH-].C(CCC)[N+]1(CCCC1)C1CCCCCCC1 | InChI=1S/C16H32N.H2O/c1-2-3-13-17(14-9-10-15-17)16-11-7-5-4-6-8-12-16;/h16H,2-15H2,1H3;1H2/q+1;/p-1
